US08445118B2
(25) Silicon(IV) Carbonylcatecholate (Molecular Weight: 300)
A solution of 3,4-dihydroxybenzaldehyde (27.6 g, 200 mmol) and toluene (220 mL) was dehydrated by distilling 5 mL of the solution. Thereafter, 20.8 g (100 mmol) of tetraethoxysilane (TEOS) was added to the solution while stirring. The mixed solution was refluxed for 1 hour, and then, while the distillation temperature was 100° C. or higher, distilled until the amount of the solution became half. After the distillation, solid content of the product was isolated by suction filtering using a membrane suction filter. The residual solid content was heated to 100° C. under vacuum using a vacuum dryer so that remaining volatile components were completely removed. The solid content (3,4-dihydroxybenzaldehyde-silicon complex) was black in color. The yield amount was 30.0 g (100 mmol), and the yield percentage was 100%. 15 g of 3,4-dihydroxybenzaldehyde-silicon complex was dissolved into 100 mL of 1:9 dimethylsulfoxide/ethanol to produce a coating liquid.

reactant | 3,4-dihydroxybenzaldehyde | 200 mmol, 27.6 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | tetraethoxysilane | 100 mmol, 20.8 g | C(C)O[Si](OCC)(OCC)OCC | C8H20O4Si
solvent | toluene | 220 mL | C1(=CC=CC=C1)C | C7H8
product | Silicon(IV) Carbonylcatecholate | C(=O)=C1C(C([O-])=CC=C1)[O-].[Si+4].C(=O)=C1C(C([O-])=CC=C1)[O-] | InChI=1S/2C7H5O3.Si/c2*8-4-5-2-1-3-6(9)7(5)10;/h2*1-3,7,9H;/q2*-1;+4/p-2
